US05648510
In 100 mL-volume egg-plant type flask, 3.30 g (11.4 mmol) of triphenylphosphine and 3.00 g (12.6 mmol) of p-chloroiodobenzene were dissolved in 40 mL of xylene. To the solution was added 30.0 mg (0.134 mmol) of palladium acetate, and the resulting mixture was stirred at 150° C. for 9.5 hours. After the reaction was complete, the reaction mixture was cooled to room temperature, and the precipitate was collected on a filter by suction. The collected precipitate was washed with xylene and dried under reduced pressure at 130° C. for 3 hours. There was obtained 5.48 g (yield: 87%) of p-chlorophenyltriphenylphosphonium iodide (m.p.: 219°-222° C., elemental analysis: found: C 57.84%, H 3.74%, calculated: C 57.57%, H 3.82%).

reactant | triphenylphosphine | 11.4 mmol, 3.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-chloroiodobenzene | 12.6 mmol, 3.00 g | ClC1=CC=C(C=C1)I | C6H4ClI
solvent | xylene | 40 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium acetate | 0.134 mmol, 30.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | p-chlorophenyltriphenylphosphonium iodide | 5.48 g, yield: 87% | [I-].ClC1=CC=C(C=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H19ClP.HI/c25-20-16-18-24(19-17-20)26(21-10-4-1-5-11-21,22-12-6-2-7-13-22)23-14-8-3-9-15-23;/h1-19H;1H/q+1;/p-1
